US05650533
A solution of sodium hydroxide (7.0 g) in water was added to methyl 4-chloro-3-isopropenyl-2-(methylsulphenyl)benzoate (7.3 g) and the resulting mixture was heated at reflux for 2 hours. Ethanol was added and the mixture was heated at reflux for 1 hour. The ethanol was removed by evaporation and the aqueous residue was acidified to pH 1. It was extracted with ethyl acetate, washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give 4-chloro-3-isopropenyl-2-(methylsulphenyl)benzoic acid (6.15 g) NMR (CDCl3) 2.05 (s,3H), 2.4 (s,3H), 4.85 (s, 1H), 5.35 (s,1H), 7.45 (d,1H), 7.85 (d,1H).

reactant | sodium hydroxide | 7.0 g | [OH-].[Na+]
reactant | methyl 4-chloro-3-isopropenyl-2-(methylsulphenyl)benzoate | 7.3 g | ClC1=C(C(=C(C(=O)OC)C=C1)SC)C(=C)C | C12H13ClO2S
reactant | Ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-chloro-3-isopropenyl-2-(methylsulphenyl)benzoic acid | 6.15 g | ClC1=C(C(=C(C(=O)O)C=C1)SC)C(=C)C | C11H11ClO2S
